US04227011
4-Chloromethyl-4-trimethylsiloxy-1-octyne
To a stirred, ice-cold solution of 7.22 g. of 4-chloromethyl-4-hydroxy-1-octyne and 7.16 g. of imidazole in 28 ml. of dimethylformamide is added 6.5 ml. of trimethylchlorosilane via a syringe during 15 minutes. The resulting mixture is stirred at room temperature overnight, diluted with hexane and poured into a mixture of ice and saturated sodium bicarbonate solution. The hexane solution is separated, washed with saturated sodium bicarbonate, water and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give 11.8 g. of a colorless liquid which is vacuum distilled at b.p. 50°-57° C./3.5-4 mm. to give 9.7 g. of product as a colorless liquid; PMR δ 3.58 (s), 2.50 (d), 1.99 (t), 0.87 (s, OTMS).

reactant | 4-chloromethyl-4-hydroxy-1-octyne | ClCC(CC#C)(CCCC)O | C9H15ClO
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Chloromethyl-4-trimethylsiloxy-1-octyne | ClCC(CC#C)(CCCC)O[Si](C)(C)C | C12H23ClOSi
